US05472962
88 mg of chromium trioxide was added to 5 ml of pyridine to give a yellow gruel-like solution, a pyridine solution of 105 mg of (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-piperidinyl)propyl]phenyl]methanol was added, and the mixture was stirred at room temperature for 1 hour. After addition of ice to the reaction mixture, the mixture was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resultant crude product was purified by TLC (developing solvent, chloroform:methanol=19:1) to obtain 47 mg of (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-piperidinyl)propyl]phenyl]methanone.

reactant | (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-piperidinyl)propyl]phenyl]methanol | 105 mg | COC=1C=CC2=C(SC(=C2C(O)C2=CC=C(C=C2)CCCN2CCCCC2)C2CCCCC2)C1 | C30H39NO2S
catalyst | chromium trioxide | 88 mg | [O-2].[O-2].[O-2].[Cr+6]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-piperidinyl)propyl]phenyl]methanone | 47 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)CCCN2CCCCC2)C2CCCCC2)C1 | C30H37NO2S
